*$
* TLA2528
*****************************************************************************
* (C) Copyright 2019 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Texas Instruments Inc.
* Part: TLA2528
* Date: 12JUL2019
* Model Type: TRANSIENT
* Simulator:  TINA
* Simulator Version: 9.3.150.328 SF-TI
* EVM Order Number: NA
* EVM Users Guide: NA
* Datasheet: SBAS961 -MAY 2019
* Topologies Supported: NA
*
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web.
*
*****************************************************************************
*
* Model Usage Notes:
* 
* 1. The following features have been modeled      
*      a. ADC Sample and Hold circuit
*          i)  SH Ron/Roff 
*          ii) SH Cap 
*      b.Mux Control Logic
*          i) Generate mux channel select signals depending upon Channel Sequence pin input.
*      c. Digital Logic Block       
*           i) Generate ADC Sample-hold timing signal
*          ii) Current model for AVDD pin for different throughput(sampling rate).         
* 
* 2.Model has the feature which will provide the option to sample only one channel continuously 
*   or switch between the two.
* 3.As the analog input signal to the ADC is unipolar, whenever the analog input signal will go 
*   below 0v ADC will sample 0v .
* 2. Temperature effects are not modeled. 
*
*****************************************************************************
.SUBCKT TLA2528_TRANS AIN0_GPIO0 AIN1_GPIO1 Vsamp BUSY Channel_Sequence AVDD 
+ Convert_Start 
XU3         BUSY VDD_17 VSS Sampling_Signal_INT INVERTER1_0
XU36 AIN0_GPIO0 AIN1_GPIO1 Channel_Sequence AVDD AVSS Sampling_Signal_INT 
+ ADC_inP BUSY MUX_0 
XU2         Convert_Start AVDD Latch FREQ_DETECT Frequency_Detector_0
XU5         BUSY VDD_17 ADC_inP VSS Vsamp Sampling_Signal_INT Analog_Input_0
EVCVS26     VSS 0 0 0  1
EVCVS6      AVSS 0 0 0  1
EVCVS4      VSS1 0 0 0  1
EVCVS3      VDD1 0 AVDD 0  1
XU1 CONV_CLK I_VDD_A Latch BUSY FREQ_DETECT VDD1 VSS1 Convert_Start 
+ Control_Logic_0 
VCCCS1_in   19 20
FCCCS1      AVDD AVSS VCCCS1_in   1
R14         20 0 1M 
GVCCS1      0 19 I_VDD_A 0  1
EVCVS27     VDD_17 0 AVDD 0  1
.ENDS TLA2528_TRANS
*$
.SUBCKT MUX_0 Ain1_INT Ain2_INT CS AVDD AVSS SS ADC_inP BUSY
SW6         23 ADC_inP Ain2_INT 0  S_VSWITCH_1
XU2         BUSY AVDD AVSS CS Muxch2 Muxch1 SS Mux_Control_Logic_0
SW1         ADC_inP 0 24 0  S_VSWITCH_2
ECS1        24 0 VALUE = {IF(V(Ain1_INT,0)<0&V(Muxch1,0)>1.5,1,0)}
ECS2        25 0 VALUE = {IF(V(Ain2_INT,0)<0&V(Muxch2,0)>1.5,1,0)}
SW4         ADC_inP 0 25 0  S_VSWITCH_3
SW5         26 ADC_inP Ain1_INT 0  S_VSWITCH_4
SW3         Ain1_INT 26 Muxch1 0  S_VSWITCH_5
SW2         Ain2_INT 23 Muxch2 0  S_VSWITCH_6
C6          0 ADC_inP 2P IC=0 
.MODEL S_VSWITCH_1 VSWITCH (RON=1M ROFF=10G VON=-1M VOFF=-7M)
.MODEL S_VSWITCH_2 VSWITCH (RON=1M ROFF=10G VON=500M VOFF=400M)
.MODEL S_VSWITCH_3 VSWITCH (RON=1M ROFF=10G VON=500M VOFF=400M)
.MODEL S_VSWITCH_4 VSWITCH (RON=1M ROFF=10G VON=-1M VOFF=-7M)
.MODEL S_VSWITCH_5 VSWITCH (RON=200 ROFF=10G VON=1.5 VOFF=1)
.MODEL S_VSWITCH_6 VSWITCH (RON=200 ROFF=10G VON=1.5 VOFF=1)
.ENDS
*$
.SUBCKT Mux_Control_Logic_0 BUSY AVDD AVSS CS Muxch2 Muxch1 SS
EVCVS1      VDD_29 0 AVDD 0  1
ECS10       BUSY_INT 0 VALUE = {(V(BUSY,0)/V(VDD_29,0))*5}
ECS9        CH0 0 VALUE = {V(CH0_SEL,0)*V(VDD_29,0)}
ECS7        CH1_SEL 0 VALUE = {IF(V(CH2_INT,0)>0.8&V(MUXCH1_INT,0)<0.4&V(MUXCH2_INT,0)<0.4,1,0)}
ECS6        CH0_SEL 0 VALUE = {IF(V(CH1_INT,0)>0.8&V(MUXCH1_INT,0)<0.4&V(MUXCH2_INT,0)<0.4,1,0)}
XU10        CH1_INT DOUT_J1_37 Inverter_0
XU9         39 DOUT_J1_38 MUXCH1_INT AND2_BASIC_GEN_SAN_0
+ PARAMS: VCC=1 VSS=0 VTH=0.5 DELAY=100N
C2          39 0 1.44N IC=0 
R2          DOUT_J1_37 39 20 
XU6         DOUT_J1_37 DOUT_J1_38 Inverter_0
ECS5        CH2_INT 0 VALUE = {IF(V(CH1_INT,0)<0.45,1,0)}
XU30        41 DOUT_J1 MUXCH2_INT AND2_BASIC_GEN_SAN_0
+ PARAMS: VCC=1 VSS=0 VTH=0.5 DELAY=100N
C3          41 0 1.44N IC=0 
R3          CH1_INT 41 20 
XU5         CH1_INT DOUT_J1 Inverter_0
ECS3        43 0 VALUE = {IF(V(42,0)>0.9,1,-1)}
C1          42 0 1.44P IC=0 
R1          44 42 15K 
ECS2        44 0 VALUE = {IF(V(BUSY_INT,0)>4,-1,1)}
XU1         43 45 CH1_INT 45 DFF_0
+ PARAMS: VDD=1 VSS=0 VTHRESH=0.5
ECS1        CH1 0 VALUE = {V(CH1_SEL,0)*V(VDD_29,0)}
ECS4        Muxch1 0 VALUE = {IF(V(CS,0)<0.5,V(CH0,0),IF(V(CS,0)>0.5&V(CS,0)<1.8,V(SS,0),0))}
ECS8        Muxch2 0 VALUE = {IF(V(CS,0)<0.5,V(CH1,0),IF(V(CS,0)>1.8&V(CS,0)<2.5,V(SS,0),0))}
.ENDS
*$
.SUBCKT Inverter_0 DIN DOUT
VDD         46 0 1
EGAIN       DOUT 0 47 0  1.1
R2          46 47 100 
R1          47 0 1K 
SW1         47 0 DIN 0  S_VSWITCH_1
.MODEL S_VSWITCH_1 VSWITCH (RON=1U ROFF=1T VON=501M VOFF=499M)
.ENDS
*$
.SUBCKT Frequency_Detector_0 Convert_Start AVDD Latch FREQ_DETECT
V2          94 0 1
R1          84 FREQ_DETECT 10U 
C3          FREQ_DETECT 0 1N IC=500N 
ECS1        84 0 VALUE = {IF(V(Latch,0)>1.5,V(85,0),V(FREQ_DETECT,0))}
XU94        G3_82 Latch VDD2 VSS2 SAMPLE_SIGNAL_0
XU97        Convert_Start 86 G3_82 G4_83 VSS2 INV_DELAY_BASIC_GEN_0
+ PARAMS: SEN=3N
XU96        Convert_Start 87 86 VDD2 VSS2 AND_NOT1_BASIC_GEN_0
+ PARAMS: V_T_MID=1 VTHRESH1=0 VTHRESH2=5 DELAY=2N
XU95        Convert_Start VDD2 VSS2 87 BUFF6_0
+ PARAMS: DELAY=5N
XU8         88 89 IDEAL_D_0
EVCVS5      VSS2 0 0 0  1
EVCVS2      VDD2 0 AVDD 0  1
XU6         91 90 92 VDD2 VSS2 AND_NOT1_BASIC_GEN_1
+ PARAMS: V_T_MID=1 VTHRESH1=0 VTHRESH2=5 DELAY=2N
XU5         91 VDD2 VSS2 90 BUFF3_0
+ PARAMS: DELAY=50N
SW1         93 0 92 0  S_VSWITCH_1
ECS2        91 0 VALUE = {IF(V(Convert_Start,0)>1.5,3,0)}
EVCVS4      85 0 89 0  1U
C2          89 0 1N IC=0 
EVCVS3      88 0 93 0  1MEG
C1          93 0 1N IC=0 
GVCCS2      94 93 95 0  1
ECS3        95 0 VALUE = {IF(V(92,0)>1.5,0,1N)}
.MODEL S_VSWITCH_1 VSWITCH (RON=1M ROFF=1G VON=500M VOFF=300M)
.ENDS
*$
.SUBCKT Analog_Input_0 BS VDD INP VSS Vsamp SS
SW3         103 0 tconv 0  S_VSWITCH_1
ECS1        Vsamp 0 VALUE = {LIMIT(V(104,0),0,V(VDD,0))}
C1          103 0 1.2P IC=0 
CSH         0 105 12P IC=0 
SW1         103 INP SS 0  S_VSWITCH_2
SMPL1       106 INP SS 0  S_VSWITCH_3
XU87        107 VDD VSS BUSY_UP_PULSE BUFF2_0
+ PARAMS: DELAY=50N
XU9         BS VDD VSS 107 BUFF_COUNTER_0
+ PARAMS: DELAY=50N
XU12        BUSY_UP_PULSE 108 tconv VDD VSS AND_NOT1_BASIC_GEN_2
+ PARAMS: V_T_MID=1 VTHRESH1=0 VTHRESH2=5 DELAY=2N
XU11        BUSY_UP_PULSE VDD VSS 108 BUFF_COUNTER_1
+ PARAMS: DELAY=50N
EVCVS3      104 0 105 0  1
RSW         106 105 400 
.MODEL S_VSWITCH_1 VSWITCH (RON=10 ROFF=1G VON=1.5 VOFF=1)
.MODEL S_VSWITCH_2 VSWITCH (RON=10 ROFF=1G VON=1.5 VOFF=1)
.MODEL S_VSWITCH_3 VSWITCH (RON=1M ROFF=1G VON=1.5 VOFF=1)
.ENDS
*$
.SUBCKT Control_Logic_0 CONV_CLK1 I_VDD_A1 Latch BUSY1 FREQ_DETECT VDD1 VSS1 
+ SCL_INT 
V3          131 0 1
V2          138 0 1
V1          134 0 1
V4          140 0 505M
XU4         CONV_CLK1 VDD1 VSS1 Conv_clockb INVERTER1_0
XU1         130 131 0 132 INVERTER1_0
XU13        CONV_CLK1 FREQ_DETECT Conv_clockb VDD_A1_J1 Latch VSS_A1 AVDD_0
EVCVS14     VDD_A1 0 VDD1 0  1
EVCVS15     VSS_A1 0 0 0  1
VCCVS3_in   VDD_A1 VDD_A1_J1
HCCVS3      I_VDD_A1 0 VCCVS3_in   1
SW1         Ramp 0 130 0  S_VSWITCH_1
XU15        Ramp 134 IDEAL_D_1
ECS1        135 0 VALUE = {IF(V(Clock_Start_INT,0)>0.5,V(132,0),0)}
XU2         136 130 BUF_DELAY_SAN_0
+ PARAMS: VDD=1 VSS=0 DELAY=2N
GVCCS1      134 Ramp 135 0  32.36M
C2          136 0 1.443N IC=0 
R1          136 137 2 
XU11        Ramp 138 137 COMP_BASIC_GEN_0
+ PARAMS: VDD=1 VEE=0
C1          Ramp 0 1N IC=0 
ECS2        INT_CLOCK_CONV 0 VALUE = {(V(VDD1,0)*V(INT_CLOCK_CONV_INT,0))}
XU28        Clock_Start Clock_Start_INT ONE_SHOT_0
+ PARAMS: T=550 
XU6         SCL_INT 139 Clock_Start VDD1 VSS1 AND_NOT1_BASIC_GEN_1
+ PARAMS: V_T_MID=1 VTHRESH1=0 VTHRESH2=5 DELAY=2N
XU5         SCL_INT VDD1 VSS1 139 BUFF3_1
+ PARAMS: DELAY=50N
XU3         Ramp 140 INT_CLOCK_CONV_INT COMP_BASIC_GEN_0
+ PARAMS: VDD=1 VEE=0
ECS4        CONV_CLOCK_START_INTd 0 VALUE = {((V(VDD1,0)/3.6)*(V(CONV_CLOCK_STARTd,0)))}
XU12 INT_CLOCK_CONV SAMPLE_START_PULSE CONV_CLOCK_STARTd BUSY_BAR_INT 
+ SRLATCHRHP_BASIC_GEN_0 
+ PARAMS: VDD=3.6 VSS=0 VTHRESH=1
XU10        SCL_INT 141 SAMPLE_DOWN_PULSE VDD1 VSS1 AND_NOT1_BASIC_GEN_1
+ PARAMS: V_T_MID=1 VTHRESH1=0 VTHRESH2=5 DELAY=2N
XU9         SCL_INT VDD1 VSS1 141 BUFF3_1
+ PARAMS: DELAY=50N
SW93        G4_124 VSS1 CLR_ALL VSS1  S_VSWITCH_2
SW94        G3_126 VSS1 CLR_ALL VSS1  S_VSWITCH_3
XU98        CONV_CLOCK_START VDD1 VSS1 142 BUFF10_0
+ PARAMS: DELAY=50N
XU99        CONV_CLOCK_START 142 CLR_ALL VDD1 VSS1 AND_NOT1_BASIC_GEN_3
+ PARAMS: V_T_MID=1 VTHRESH1=0 VTHRESH2=5 DELAY=2N
XU106       SAMPLE_START VDD1 VSS1 143 BUFF7_0
+ PARAMS: DELAY=50N
XU81        SAMPLE_START 143 SAMPLE_START_PULSE VDD1 VSS1 AND_NOT2_BASIC_GEN_0
+ PARAMS: V_T_MID=1 VTHRESH1=0 VTHRESH2=5 DELAY=2N
XU94        G4_124 SAMPLE_START VDD1 VSS1 SAMPLE_SIGNAL_1
XU97        CONV_CLK1 144 G3_126 G4_124 VSS1 INV_DELAY_BASIC_GEN_1
+ PARAMS: SEN=3N
XU96        CONV_CLK1 145 144 VDD1 VSS1 AND_NOT1_BASIC_GEN_0
+ PARAMS: V_T_MID=1 VTHRESH1=0 VTHRESH2=5 DELAY=2N
XU95        CONV_CLK1 VDD1 VSS1 145 BUFF6_0
+ PARAMS: DELAY=5N
XU108       BUSY1 INT_CLOCK_CONV CONV_CLK1 VDD1 VSS1 AND2_0
+ PARAMS: V_T_MID=1 VTHRESH1=0 VTHRESH2=5 DELAY=2N
ECS7        BUSY_BAR 0 VALUE = {((V(VDD1,0)/3.6)*(V(BUSY_BAR_INT,0)))}
ECS5        BUSY1 0 VALUE = {((V(VDD1,0)/3.6)*(V(CONV_CLOCK_START,0)))}
XU83 SAMPLE_DOWN_PULSE SAMPLE_START_PULSE CONV_CLOCK_START BUSY_BAR_INT 
+ SRLATCHRHP_BASIC_GEN_0 
+ PARAMS: VDD=3.6 VSS=0 VTHRESH=1
.MODEL S_VSWITCH_1 VSWITCH (RON=1M ROFF=1G VON=800M VOFF=200M)
.MODEL S_VSWITCH_2 VSWITCH (RON=1M ROFF=1G VON=2 VOFF=1)
.MODEL S_VSWITCH_3 VSWITCH (RON=1M ROFF=1G VON=2 VOFF=1)
.ENDS
*$
.SUBCKT AVDD_0 CONV_CLK FREQ_DETECT CONV_CLKb VDD_A1 Latch VSS_A1
ECS1        VDD_A_INT 0 VALUE = {IF(V(Iavdd_Out,0)>1,(2.1K*V(IAVG_INT,0)),0)}
R1          151 Iavdd_Out 10U 
C3          Iavdd_Out 0 1N IC=0 
ECS2        151 0 VALUE = {IF(V(152,0)>1.5,V(VDDA1,0),V(Iavdd_Out,0))}
EVCVS2      VSSA1 0 VSS_A1 0  1
EVCVS1      VDDA1 0 VDD_A1 0  1
XU108       Latch CONV_CLK 152 VDDA1 VSSA1 AND2_0
+ PARAMS: V_T_MID=1 VTHRESH1=0 VTHRESH2=5 DELAY=2N
ECS3        IAVG_INT 0 VALUE = {((1N+(7U*V(FREQ_DETECT,0)-7U*V(FREQ_DETECT,0)))/V(FREQ_DETECT,0))}
SW8         VSS_A1 153 CONV_CLK VSS_A1  S_VSWITCH_1
C2          153 VSS_A1 9.166P IC=0 
VCCCS1_in   154 155
FCCCS1      VDD_A1 VSS_A1 VCCCS1_in   1
SW2         155 153 VDD_A1 VSS_A1  S_VSWITCH_2
SW1         VDD_A_INT 154 CONV_CLKb VSS_A1  S_VSWITCH_3
SW5         VSS_A1 156 CONV_CLKb VSS_A1  S_VSWITCH_4
C1          156 VSS_A1 9.166P IC=0 
VCCCS2_in   157 158
FCCCS2      VDD_A1 VSS_A1 VCCCS2_in   1
SW3         158 156 VDD_A1 VSS_A1  S_VSWITCH_5
SW11        VDD_A_INT 157 CONV_CLK VSS_A1  S_VSWITCH_6
SW7         159 VSS_A1 VDD_A1 VSS_A1  S_VSWITCH_7
SW6         VDD_A1 159 VDD_A1 VSS_A1  S_VSWITCH_8
.MODEL S_VSWITCH_1 VSWITCH (RON=350 ROFF=1G VON=1.1 VOFF=1)
.MODEL S_VSWITCH_2 VSWITCH (RON=350 ROFF=1G VON=3 VOFF=2.35)
.MODEL S_VSWITCH_3 VSWITCH (RON=1M ROFF=1G VON=2.1 VOFF=2)
.MODEL S_VSWITCH_4 VSWITCH (RON=350 ROFF=1G VON=1.1 VOFF=1)
.MODEL S_VSWITCH_5 VSWITCH (RON=350 ROFF=1G VON=3 VOFF=2.35)
.MODEL S_VSWITCH_6 VSWITCH (RON=1M ROFF=1G VON=2.1 VOFF=2)
.MODEL S_VSWITCH_7 VSWITCH (RON=500K ROFF=214.285718K VON=5 VOFF=3)
.MODEL S_VSWITCH_8 VSWITCH (RON=214.28571K ROFF=1G VON=2.35 VOFF=1)
.ENDS
*$
.SUBCKT INVERTER1_0  A VDD VSS Y
E_ABMGATE1 Y VSS VALUE {IF(V(A) > (V(VDD)/2) ,V(VSS),V(VDD))}
.ENDS INVERTER1_0 
*$
.SUBCKT AND2_BASIC_GEN_SAN_0  IN1 IN2 Y PARAMS: VDD=1 VEE=0 VTH=0.5 
E1 OUT1 0 VALUE={IF(V(IN1)>{VTH} & V(IN2)>{VTH},{VDD},{VEE})}
R1 OUT1 Y {1P*1E12}
C1 Y 0 1.443P
.ENDS AND2_BASIC_GEN_SAN_0 
*$
.SUBCKT DFF_0  CLK D Q QB PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
VT1 RB 0 5V
VT2 SB 0 5V
ETEST CLK_INV_TEST 0 VALUE = {IF( V(CLK) > {VTHRESH}, {VSS},{VDD})}
X1 CLK_INV_TEST CLKDEL INV_DELAY_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH} DELAY = 15N
X2 CLK_INV_TEST CLKDEL CLKINT AND2_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH}
GQ 0 QINT VALUE = {IF(V(SB) < {VTHRESH},5,IF(V(RB)<{VTHRESH},-5, IF(V(CLKINT)> {VTHRESH}, 
+ IF(V(D)> {VTHRESH},5,-5),0)))}
CQINT QINT 0 1N
RQINT QINT 0 1000MEG
D_D10 QINT MY5 D_D1
V1 MY5 0 {VDD}
D_D11 MYVSS QINT D_D1
V2 MYVSS 0 {VSS} 
EQ QQQ 0 QINT 0 1
X3 QQQ QQQD1 BUF_DELAY_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH} DELAY = 25N
RQQ QQQD1 Q 1
EQB QBR 0 VALUE = {IF( V(Q) > {VTHRESH}, {VSS},{VDD})}
RQB QBR QB 1 
CDUMMY1 Q 0 1NF 
CDUMMY2 QB 0 1NF 
.IC V(QINT) {VSS}
.MODEL D_D1 D( IS=1E-15 TT=10P RS=0.05 N=.1 )
.ENDS 
*$
.SUBCKT INV_DELAY_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 DELAY = 10N 
E_ABMGATE1    YINT1 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VDD},{VSS})}}
RINT YINT1 YINT2 1
CINT YINT2 0 {DELAY*1.3}
E_ABMGATE2    YINT3 0 VALUE {{IF(V(YINT2) > {VTHRESH} , 
+ {VSS},{VDD})}}
RINT2 YINT3 Y 1
CINT2 Y 0 1N
.ENDS INV_DELAY_BASIC_GEN
*$
.SUBCKT AND2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &  
+ V(B) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1N
.ENDS AND2_BASIC_GEN
*$
.SUBCKT BUF_DELAY_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 DELAY = 10N 
E_ABMGATE1    YINT1 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VDD},{VSS})}}
RINT YINT1 YINT2 1
CINT YINT2 0 {DELAY*1.3}
E_ABMGATE2    FALLDELAY_IN 0 VALUE {{IF(V(YINT2) > {VTHRESH} , 
+ {VDD},{VSS})}}
ECST3        5 0 VALUE = {IF(V(4,0)>0.5,0,1)}
CT3          VF3 0 10P IC=0 
RT3          5 VF3 1K 
ECST1        7 0 VALUE = {IF(V(FALLDELAY_IN,0)>0.5,0,1)}
CT2          Y 0 10P 
RT2          8 Y 1 
CT1          4 0 10P IC=0 
RT1          7 4 1K 
ECST2        8 0 VALUE = {IF(V(FALLDELAY_IN,0)>0.5|V(VF3,0)>0.5,1,0)}
.ENDS BUF_DELAY_BASIC_GEN
*$
.SUBCKT SAMPLE_SIGNAL_0  VIN SS VDD VSS
E_CLK_RISING_EDGE SS VSS VALUE = {IF(V(VIN)>0.7, V(VDD),V(VSS))}
.ENDS SAMPLE_SIGNAL_0 
*$
.SUBCKT INV_DELAY_BASIC_GEN_0  CLK CLKFE CLK_RISING_EDGE CLK_FALLING_EDGE GND
E_CLK_RISING_EDGE TEMP1 GND VALUE = {IF (V(CLK)>1.2 & V(CLK_FALLING_EDGE)<1.7 , V(CLK_FALLING_EDGE) ,V(CLK_RISING_EDGE))}
R1 TEMP1 CLK_RISING_EDGE 5
C1 CLK_RISING_EDGE GND 1P
E_CLK_FALLING_EDGE TEMP2 GND VALUE = {IF (V(CLKFE)<0.5 , V(CLK_RISING_EDGE)+1, V(CLK_FALLING_EDGE))}
R2 TEMP2 CLK_FALLING_EDGE 5
C2 CLK_FALLING_EDGE GND 1P
.ENDS INV_DELAY_BASIC_GEN_0 
*$
.SUBCKT AND_NOT1_BASIC_GEN_0  A B Y VDD VSS
E_ABMGATE    Y VSS VALUE {IF(V(A) < 1 &  V(B) > 1,V(VSS),V(VDD))}
.ENDS AND_NOT1_BASIC_GEN_0 
*$
.SUBCKT BUFF6_0  A VDD VSS Y 
E_ABMGATE1 YINT1 VSS VALUE {IF(V(A) > 1 ,V(VDD),V(VSS))}
RINT2 Y YINT1 1
C1 Y 0 1N IC=0
.ENDS BUFF6_0 
*$
.SUBCKT IDEAL_D_0  A C
D1 A C DNOM
.MODEL DNOM D (RS=1M N=0.001 T_ABS=25)
.ENDS IDEAL_D_0
*$
.SUBCKT AND_NOT1_BASIC_GEN_1  A B Y VDD VSS
E_ABMGATE    Y VSS VALUE {IF(V(A) > (V(VDD)/2) &  V(B) < (V(VDD)/2),V(VDD),V(VSS))}
.ENDS AND_NOT1_BASIC_GEN_1 
*$
.SUBCKT BUFF3_0  A VDD VSS Y 
E_ABMGATE1 YINT1 VSS VALUE {IF(V(A) > (V(VDD)/2) ,V(VDD),V(VSS))}
RINT2 Y YINT1 1
C1 Y 0 4N IC=0
.ENDS BUFF3_0 
*$
.SUBCKT BUFF2_0  A VDD VSS Y
E_ABMGATE1 Y VSS VALUE {IF(V(A) > (V(VDD)/2) ,V(VDD),V(VSS))}
.ENDS BUFF2_0 
*$
.SUBCKT BUFF_COUNTER_0  A VDD VSS Y 
E_ABMGATE1 YINT1 VSS VALUE {IF(V(A) > 1.5 ,V(VDD),V(VSS))}
RINT2 Y YINT1 1
C1 Y 0 100N IC=0
.ENDS BUFF_COUNTER_0 
*$
.SUBCKT AND_NOT1_BASIC_GEN_2  A B Y VDD VSS
E_ABMGATE    Y VSS VALUE {IF(V(A) > 1.5 &  V(B) < 1.5,V(VDD),V(VSS))}
.ENDS AND_NOT1_BASIC_GEN_2 
*$
.SUBCKT BUFF_COUNTER_1  A VDD VSS Y 
E_ABMGATE1 YINT1 VSS VALUE {IF(V(A) > 1.5 ,V(VDD),V(VSS))}
RINT2 Y YINT1 1
C1 Y 0 80.886N IC=0
.ENDS BUFF_COUNTER_1 
*$
.SUBCKT IDEAL_D_1  A C
D1 A C DNOM
.MODEL DNOM D (RS=1U N=0.01 T_ABS=25)
.ENDS IDEAL_D_1 
*$
.SUBCKT BUF_DELAY_SAN_0  IN OUT PARAMS: VDD=1 VSS=0 DELAY=50N
.PARAM VTH={({VDD}+{VSS})/2}
E1 OUT1 0 VALUE = {IF(V(IN)>{VTH},{VDD},{VSS})}
R1 OUT1 OUT2 {{DELAY}*1E9}
C1 OUT2 0 1.443N
E2 OUT 0 VALUE={IF(V(OUT2)>{VTH},{VDD},{VSS})}
.ENDS BUF_DELAY_SAN_0  
*$
.SUBCKT COMP_BASIC_GEN_0  INP INM Y PARAMS: VDD=1 VEE=0 
E_ABM Y 0 VALUE = {((VDD+VEE)/2)+((VDD-VEE)/2)*TANH(10E12*(V(INP)-V(INM)))}
.ENDS COMP_BASIC_GEN_0 
*$
.SUBCKT ONE_SHOT_0  IN OUT PARAMS:  T=6
S_S1         MEAS 0 RESET2 0 S1
E_ABM1         CH 0 VALUE { IF( V(IN)>0.5 | V(OUT)>0.5,1,0)    }
R_R2         RESET2 RESET  0.1  
E_ABM3         OUT 0 VALUE { IF( V(MEAS)<0.5 & V(CH)>0.5,1,0)    }
R_R1         MEAS CH  {T} 
C_C2         0 RESET2  1.4427N  
C_C1         0 MEAS  1.4427N  
E_ABM2         RESET 0 VALUE { IF(V(CH)<0.5,1,0)    }
.MODEL S1 VSWITCH
+ ROFF=1E+009
+ RON=1
+ VOFF=0.25
+ VON=0.75
.ENDS ONE_SHOT_0 
*$
.SUBCKT BUFF3_1  A VDD VSS Y 
E_ABMGATE1 YINT1 VSS VALUE {IF(V(A) > (V(VDD)/2) ,V(VDD),V(VSS))}
RINT2 Y YINT1 1
C1 Y 0 2N IC=0
.ENDS BUFF3_1 
*$
.SUBCKT SRLATCHRHP_BASIC_GEN_0  S R Q QB PARAMS: VDD=3.6 VSS=0 VTHRESH=1 
GQ 0 QINT VALUE = {IF(V(R) > {VTHRESH},-3.6,IF(V(S)>{VTHRESH},3.6, 0))}
CQINT QINT 0 1N
RQINT QINT 0 1000MEG
D_D10 QINT MY5 D_D1
V1 MY5 0 {VDD}
D_D11 MYVSS QINT D_D1
V2 MYVSS 0 {VSS} 
EQ QQQ 0 QINT 0 1
X3 QQQ QQQD1 BUF_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH}
RQQ QQQD1 Q 1
EQB QBR 0 VALUE = {IF( V(Q) > {VTHRESH}, {VSS},{VDD})}
RQB QBR QB 1 
CDUMMY1 Q 0 1N 
CDUMMY2 QB 0 1N
.IC V(QINT) {VSS}
.ENDS SRLATCHRHP_BASIC_GEN_0 
.SUBCKT BUF_BASIC_GEN A  Y PARAMS: VDD=3.6 VSS=0 VTHRESH=1 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1N
.ENDS BUF_BASIC_GEN
*$
.MODEL D_D1 D( IS=1E-15 TT=10P RS=0.05 N=.1  )
*$
.SUBCKT BUFF10_0  A VDD VSS Y 
E_ABMGATE1 YINT1 VSS VALUE {IF(V(A) > 1 ,V(VDD),V(VSS))}
RINT2 Y YINT1 1
C1 Y 0 1N IC=0
.ENDS BUFF10_0 
*$
.SUBCKT AND_NOT1_BASIC_GEN_3  A B Y VDD VSS
E_ABMGATE Y VSS VALUE {IF(V(A) < 1 &  V(B) > 1,V(VDD),V(VSS))}
.ENDS AND_NOT1_BASIC_GEN_3 
*$
.SUBCKT BUFF7_0  A VDD VSS Y 
E_ABMGATE1 YINT1 VSS VALUE {IF(V(A) > (V(VDD)/2) ,V(VDD),V(VSS))}
RINT2 Y YINT1 1
C1 Y 0 2N IC=0
.ENDS BUFF7_0 
*$
.SUBCKT AND_NOT2_BASIC_GEN_0  A B Y VDD VSS
E_ABMGATE    Y VSS VALUE {IF(V(A) > (V(VDD)/2) &  V(B) < (V(VDD)/2),V(VDD),V(VSS))}
.ENDS AND_NOT2_BASIC_GEN_0 
*$
.SUBCKT SAMPLE_SIGNAL_1  VIN SS VDD VSS
E_CLK_RISING_EDGE SS VSS VALUE = {IF(V(VIN)>14.5, V(VDD),V(VSS))}
.ENDS SAMPLE_SIGNAL_1 
*$
.SUBCKT INV_DELAY_BASIC_GEN_1  CLK CLKFE CLK_RISING_EDGE CLK_FALLING_EDGE GND
E_CLK_RISING_EDGE TEMP1 GND VALUE = {IF (V(CLK)>1.2 & V(CLK_FALLING_EDGE)<14.7 , V(CLK_FALLING_EDGE) ,V(CLK_RISING_EDGE))}
R1 TEMP1 CLK_RISING_EDGE 5
C1 CLK_RISING_EDGE GND 1P
E_CLK_FALLING_EDGE TEMP2 GND VALUE = {IF (V(CLKFE)<0.5 , V(CLK_RISING_EDGE)+1, V(CLK_FALLING_EDGE))}
R2 TEMP2 CLK_FALLING_EDGE 5
C2 CLK_FALLING_EDGE GND 1P
.ENDS INV_DELAY_BASIC_GEN_1 
*$
.SUBCKT AND2_0  A B Y VDD VSS
E_ABMGATE    YINT VSS VALUE {IF(V(A) > (V(VDD)/2) &  V(B) > (V(VDD)/2),V(VDD),V(VSS))}
RINT YINT Y 5
CINT Y VSS 10F
.ENDS AND2_0 
*$
